US08110579B2
Put 5 g (22.5 mmol) of methyl 3-amino-5,6-dichloropyrazine-2-carboxylate, 3.2 g (23.65 mmol) of 2-methylphenyl boronic acid in 45 mL of anhydrous toluene in a screw-top bottle. After dissolution, add 34 mL (67.6 mmol) of a 2N aqueous solution of sodium carbonate and degas the two-phase mixture for 30 min by bubbling with argon. Then add 1.3 g (1.13 mmol) of Pd(PPh3)4 and stir the reaction mixture vigorously at 110° C. for 48 h. After cooling, distribute the solution in 500 mL of EtOAc/brine 1:1 mixture and extract the aqueous phase again with 4×50 mL of EtOAc. Combine the organic phases, dry over Na2SO4 and concentrate under reduced pressure. Purify the residue obtained by silica gel column chromatography, eluting with a cyclohexane/EtOAc gradient from 0 to 20% of EtOAc. After concentration under reduced pressure, we obtain 2 g of methyl 3-amino-6-chloro-5-(2-methylphenyl)pyrazine-2-carboxylate in the form of yellow wax.

reactant | methyl 3-amino-5,6-dichloropyrazine-2-carboxylate | 22.5 mmol, 5 g | NC=1C(=NC(=C(N1)Cl)Cl)C(=O)OC | C6H5Cl2N3O2
reactant | 2-methylphenyl boronic acid | 23.65 mmol, 3.2 g | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc brine | 500 mL | CCOC(=O)C.[Cl-].[Na+].O
catalyst | Pd(PPh3)4 | 1.13 mmol, 1.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-amino-6-chloro-5-(2-methylphenyl)pyrazine-2-carboxylate | 2 g, Yield 50% | NC=1C(=NC(=C(N1)C1=C(C=CC=C1)C)Cl)C(=O)OC | C13H12ClN3O2
